US09278915B2
Intermediate 49: Ethyl 4-iodo-5-methyl-1,2-oxazole-3-carboxylate
To a 25 mL RB flask fitted with a magnetic stirrer was charged with 1 mL of TFA. To the stirred solvent were added ethyl 5-methyl-1,2-oxazole-3-carboxylate (0.1 g, 0.6 mmol) and N-iodosuccinimide (0.289 g, 1.2 mmol). After addition, the reaction mixture was heated at 65° C. for 3 h. After completion of the reaction, the reaction mixture was diluted with ethyl acetate (10 mL), the organic layer was washed with saturated NaHCO3 solution (10 mL), thiosulfate solution (10 mL), water (25 mL) and finally with brine solution (10 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as a brown liquid (0.12 g, yield: 66.2%). 1H NMR (300 MHz, CDCl3): δ 4.36-4.43 (q, 2H), 2.49 (s, 3H), 1.34-1.39 (t, 3H).

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | ethyl 5-methyl-1,2-oxazole-3-carboxylate | 0.6 mmol, 0.1 g | CC1=CC(=NO1)C(=O)OCC | C7H9NO3
reactant | N-iodosuccinimide | 1.2 mmol, 0.289 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 4-iodo-5-methyl-1,2-oxazole-3-carboxylate | 0.12 g, yield: 66.2% | IC=1C(=NOC1C)C(=O)OCC | C7H8INO3
